2182-08-23 07:50:00 Physician Resident Progress Note
Chief Complaint: GIB
   24 Hour Events:
   - received 1 unit of [** **] overnight, HCT 19.1 -> 21.5, another unit
   hanging this AM
   - NGT placed, patient undergoing golytely prep overnight with black
   tarry stool at beginning and clear liquid stool this AM
   - Remains NPO for possible EGD and colonoscopy this AM
   Allergies:
   Penicillins
   Rash;
   Ciprofloxacin
   Unknown;
   Cefazolin
   Rash; itchiness
   Adhesive Tape (Topical)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2182-8-23**] 12:39 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-8-23**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.6
C (96
   HR: 62 (60 - 69) bpm
   BP: 111/49(66) {84/37(51) - 123/91(97)} mmHg
   RR: 13 (12 - 17) insp/min
   SpO2: 100%
   Heart rhythm: AV Paced
             Total In:
                                                                  1,603 mL
                                                                  4,162 mL
   PO:
             TF:
   IVF:
                                                                     28 mL
                                                                     82 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                    600 mL
                                                                    950 mL
   Urine:
                                                                    600 mL
                                                                    100 mL
   NG:
   Stool:
   850 mL
   Drains:
   Balance:
                                                                  1,003 mL
                                                                  3,212 mL
   Respiratory support
   SpO2: 100%
   ABG: ///21/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   176 K/uL
   7.0 g/dL
   99 mg/dL
   1.7 mg/dL
   21 mEq/L
   4.4 mEq/L
   73 mg/dL
   118 mEq/L
   146 mEq/L
   21.1 %
   5.5 K/uL
        [image002.jpg]
                             [**2182-8-22**]  05:22 PM
                             [**2182-8-22**]  10:15 PM
                             [**2182-8-23**]  03:00 AM
   WBC
   5.5
   Hct
   19.1
   21.5
   21.1
   Plt
   176
   Cr
   1.9
   1.7
   TropT
   0.01
   Glucose
   98
   99
   Other labs: PT / PTT / INR:31.9/32.6/3.3, CK / CKMB /
   Troponin-T:23//0.01, Ca++:8.6 mg/dL, Mg++:2.4 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   88M with afib on coumadin, CHF(EF 25-30%), s/p PPM, pancreatic
   insufficiency, admitted with GIB and reported orthostatic hypotension
   .
   #. GI Bleed - In the setting of supratherapeutic INR on home coumadin.
   Had episodes of dark stool concerning for upper GI source or right
   colonic source. Ddx includes gastric/duodenal ulcer (although NG lavage
   negative), diverticula, AVM, mass in the context of supratherapeutic
   INR. Last EGD and colonoscopy in [**2180**] were wnl other than some gastric
   polyps and grade I hemorrhoids. Patient has been HD stable (no
   hypotensive, tachycardic), but his Hct is down from baseline. GI aware
   and plan to do EGD and colonoscopy with prep tomorrow if patient
   remains stable overnight. Patient still due for blood transfusions as
   he is difficult crossmatch. He is s/p FFP and IV vitamin K
   - GI aware, appreciate recs
   - transfuse to keep Hct>25
   - serial Hct and coags - Q6hr
   - f/u coags s/p reversal with FFP and vitamin K
   - hold coumadin
   - type and Cross, crossmatch 2 units
   - IV access: 2 PIVs - 18g
   - NGT placement tonight for golytely prep overnight
   - Tagged RBC scan if active bleeding
   - IV BID PPI
   - Hold antihypertensives
   - Keep NPO for now
   .
   # Cardiac/rhythm: Patient with known afib on coumadin - with
   supratherapeutic INR. s/p DDDR pacemaker in [**2176**]. Currently with HR in
   60s which is at baseline.
   - hold beta blocker while monitoring for GIB
   - monitor on telemetry
   .
   # Cardiac/pump: Last ECHO in [**2177**] showed EF of 25-30%. Patient
   hypovolemic on exam from blood loss with no evidence of overload but as
   plan to transfuse with [**Last Name (LF) **], [**First Name3 (LF) 124**] monitor respiratory status, physical
   exam for volume overload. Patient on home lasix of 40mg PO daily to
   every other day
   - lasix for diuresis prn
   .
   # Cardiac/ischemia: Patient with no chest pain, 1st set of enzymes with
   slightly increased troponin but CK flat. EKG with wide complex QRS with
   RBBB.
   - cycle enzymes
   - repeat EKG in AM, obtain old EKG from PCP
   [**Name Initial (PRE) **] continue simvastatin
   - hold beta blocker for now
   .
   # s/p infected prosthetic knee replacement in right knee: afebrile, LE
   at baseline, no indication of infection
   - continue bactrim ppx
   - continue knee brace
   .
   # Gout
   - continue allopurinol
   .
   # Insomnia: Patient recently seen in sleep lab for nightmares
   - continue seroquel QHS
   - try to maintain sleep-wake cycle
   .
   #. FEN - NPO for now, NGT placement for golytely prep overnight
   .
   #. Access - 2 x 18g PIV
   .
   #. PPx -
   -DVT ppx with pneumoboots
   .
   #. [**Name (NI) **] - Son and daughter at bedside on admission. Has 2 caretakers at
   bedside, home assistant Ms. [**First Name8 (NamePattern2) 866**] [**Last Name (NamePattern1) 867**], also home OT therapist.
   Confirmed full code status with son. ICU consent signed.
   .
   #. Code - Full code
   .
   #. Dispo - ICU
   ICU Care
   Nutrition: NPO for now, golytely prep by NGT planned overnight
   Glycemic Control:
   Lines:
   18 Gauge - [**2182-8-22**] 04:08 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: son and daughter. ICU consent signed.
   Code status: Full code
   Disposition: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2182-8-22**] 04:08 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2182-08-24 06:41:00 Physician Resident Progress Note
Chief Complaint: GI BLEED
   24 Hour Events:
 COLONOSCOPY - At [**2182-8-23**] 09:30 AM
 ENDOSCOPY - At [**2182-8-23**] 10:30 AM
   Upper and lower EGD performed; non bleeding ulcer in duodenum seen.   H
   pylori sent.
   Transfused a total of 5 units PRBC's with overall hct bump of 21.1 ->
   28.5.
   Restarted on home lasix dose.
   Allergies:
   Penicillins
   Rash;
   Ciprofloxacin
   Unknown;
   Cefazolin
   Rash; itchiness
   Adhesive Tape (Topical)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2182-8-23**] 08:49 AM
   Fentanyl - [**2182-8-23**] 09:30 AM
   Midazolam (Versed) - [**2182-8-23**] 09:30 AM
   Heparin Sodium (Prophylaxis) - [**2182-8-23**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-8-24**] 06:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 35.7
C (96.2
   HR: 60 (60 - 76) bpm
   BP: 102/44(59) {76/37(54) - 123/59(74)} mmHg
   RR: 13 (10 - 20) insp/min
   SpO2: 99%
   Heart rhythm: AV Paced
   Height: 72 Inch
                  Total In:
                                                                  6,861 mL
                                                                    188 mL
   PO:
                                                                    760 mL
                  TF:
   IVF:
                                                                     92 mL
   Blood products:
                                                                  1,929 mL
                                                                    188 mL
   Total out:
                                                                  2,450 mL
                                                                    500 mL
   Urine:
                                                                  1,600 mL
                                                                    500 mL
   NG:
   Stool:
                                                                    850 mL
   Drains:
   Balance:
                                                                  4,411 mL
                                                                   -313 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///23/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   156 K/uL
   9.5 g/dL
   93 mg/dL
   1.6 mg/dL
   23 mEq/L
   4.0 mEq/L
   48 mg/dL
   115 mEq/L
   146 mEq/L
   28.7 %
   5.4 K/uL
        [image002.jpg]
                             [**2182-8-22**]  05:22 PM
                             [**2182-8-22**]  10:15 PM
                             [**2182-8-23**]  03:00 AM
                             [**2182-8-23**]  12:45 PM
                             [**2182-8-23**]  05:59 PM
                             [**2182-8-24**]  03:47 AM
   WBC
   5.5
   5.4
   Hct
   19.1
   21.5
   21.1
   23.1
   22.9
   28.7
   Plt
   176
   156
   Cr
   1.9
   1.7
   1.6
   TropT
   0.01
   Glucose
   98
   99
   93
   Other labs: PT / PTT / INR:26.0/34.3/2.6, CK / CKMB /
   Troponin-T:23//0.01, Ca++:8.6 mg/dL, Mg++:2.1 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   88M with afib on coumadin, CHF(EF 25-30%), s/p PPM, pancreatic
   insufficiency, admitted with GIB and reported orthostatic hypotension
   .
   #. GI Bleed - In the setting of supratherapeutic INR on home coumadin.
   Had episodes of dark stool concerning for upper GI source or right
   colonic source. Ddx includes gastric/duodenal ulcer (although NG lavage
   negative), diverticula, AVM, mass in the context of supratherapeutic
   INR. Last EGD and colonoscopy in [**2180**] were wnl other than some gastric
   polyps and grade I hemorrhoids. Patient has been HD stable (no
   hypotensive, tachycardic), but his Hct is down from baseline. GI aware
   and plan to do EGD and colonoscopy with prep tomorrow if patient
   remains stable overnight. Patient still due for blood transfusions as
   he is difficult crossmatch. He is s/p FFP and IV vitamin K
   - GI aware, appreciate recs
   - transfuse to keep Hct>25
   - serial Hct and coags - Q6hr
   - f/u coags s/p reversal with FFP and vitamin K
   - hold coumadin
   - type and Cross, crossmatch 2 units
   - IV access: 2 PIVs - 18g
   - NGT placement tonight for golytely prep overnight
   - Tagged RBC scan if active bleeding
   - IV BID PPI
   - Hold antihypertensives
   - Keep NPO for now
   .
   # Cardiac/rhythm: Patient with known afib on coumadin - with
   supratherapeutic INR. s/p DDDR pacemaker in [**2176**]. Currently with HR in
   60s which is at baseline.
   - hold beta blocker while monitoring for GIB
   - monitor on telemetry
   .
   # Cardiac/pump: Last ECHO in [**2177**] showed EF of 25-30%. Patient
   hypovolemic on exam from blood loss with no evidence of overload but as
   plan to transfuse with [**Last Name (LF) **], [**First Name3 (LF) 124**] monitor respiratory status, physical
   exam for volume overload. Patient on home lasix of 40mg PO daily to
   every other day
   - lasix for diuresis prn
   .
   # Cardiac/ischemia: Patient with no chest pain, 1st set of enzymes with
   slightly increased troponin but CK flat. EKG with wide complex QRS with
   RBBB.
   - cycle enzymes
   - repeat EKG in AM, obtain old EKG from PCP
   [**Name Initial (PRE) **] continue simvastatin
   - hold beta blocker for now
   .
   # s/p infected prosthetic knee replacement in right knee: afebrile, LE
   at baseline, no indication of infection
   - continue bactrim ppx
   - continue knee brace
   .
   # Gout
   - continue allopurinol
   .
   # Insomnia: Patient recently seen in sleep lab for nightmares
   - continue seroquel QHS
   - try to maintain sleep-wake cycle
   .
   #. FEN - NPO for now, NGT placement for golytely prep overnight
   .
   #. Access - 2 x 18g PIV
   .
   #. PPx -
   -DVT ppx with pneumoboots
   .
   #. [**Name (NI) **] - Son and daughter at bedside on admission. Has 2 caretakers at
   bedside, home assistant Ms. [**First Name8 (NamePattern2) 866**] [**Last Name (NamePattern1) 867**], also home OT therapist.
   Confirmed full code status with son. ICU consent signed.
   .
   #. Code - Full code
   .
   #. Dispo - ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2182-8-22**] 04:08 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: